US06458772B1
To a solution of 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvaleric acid (16.0 g, 24 mmol) in dioxane (500 mL), was added dropwise a 40% aqueous solution of tetrabutylammonium hydroxide (14.3 mL). After stirring for 5 min, the solution was evaporated to dryness through co-evaporation with dioxane and toluene. The residue was dissolved in dichloromethane (500 mL) and then chloroiodomethane (17.5 mL, 240 mmol) was added and the solution was stirred for 6 h at room temperature. The solution was concentrated under reduced pressure and the residue was shaken with hexane/ethyl acetate (1:1 v/v, 400 mL). The yellow crystalline solid was filtered off and the filtrate was washed with aqueous solution of sodium thiosulfate (0.1 M) and the filtered through anhydrous sodium sulfate and evaporated to dryness. The residue was column chromatographed (silica gel, 1%MeOH in CH2Cl2), to give 11.0 g of chloromethyl 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvalerate.

reactant | 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvaleric acid | 24 mmol, 16.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CC(C(=O)O)(C)C)OC(CCCCCCCCCCCCCCCCC)=O | C38H63NO8
reactant | tetrabutylammonium hydroxide | 14.3 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | chloroiodomethane | 240 mmol, 17.5 mL | ClCI | CH2ClI
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | chloromethyl 5-(N-CBz-L-valyloxy)-4-stearoyloxy-2,2-dimethylvalerate | 11.0 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)OCC(CC(C(=O)OCCl)(C)C)OC(CCCCCCCCCCCCCCCCC)=O | C39H64ClNO8
